US09079866B2
6-Amino-3-[3-fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]pyrazine-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-(2-bromophenoxy)pyrimidine. MS (ESI): mass calcd. for C21H13FN6O, 384.11; m/z found, 385.0 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.55 (d, J=4.8, 2H), 8.20 (s, 1H), 7.61 (dd, J=7.7, 1.7, 1H), 7.57-7.49 (m, 2H), 7.44-7.37 (m, 3H), 7.35 (s, 2H), 7.32 (dd, J=8.1, 1.2, 1H), 7.19-7.15 (m, 1H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-(2-bromophenoxy)pyrimidine | BrC1=C(OC2=NC=CC=N2)C=CC=C1 | C10H7BrN2O
product | 6-Amino-3-[3-fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)OC1=NC=CC=N1)F | C21H13FN6O
